US04269832
Preparation of 2-chloro-4,6-bis(1,1,2,2-tetramethylpropylamino)-s-triazine
6.7 g. (0.044 mole) 2,3,3-trimethyl-2-butylamine hydrochloride and 3.4 g. (0.84 mole) NaOH in 20 ml. water are added to a stirred slurry of 3.6 g. (0.02 mole) cyanuric chloride in 150 ml. water. The reaction mixture is heated at reflux for 21/2 hours, cooled and filtered to give the product, a white solid, m.p. 129°-131° C., 6.5 g.

reactant | 2,3,3-trimethyl-2-butylamine hydrochloride | 0.044 mole | Cl.CC(C)(C(C)(C)C)N
reactant | NaOH | 0.84 mole | [OH-].[Na+]
reactant | cyanuric chloride | 0.02 mole | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | water | O | H2O
product | 2-chloro-4,6-bis(1,1,2,2-tetramethylpropylamino)-s-triazine | ClC1=NC(=NC(=N1)NC(C(C)(C)C)(C)C)NC(C(C)(C)C)(C)C | C17H32ClN5
